US07420055B2
Synthesis of 4-Azetidin-1-yl-N-[4-chloro-2-(pyridine-4-carbonyl)-phenyl]-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of heterocyclyl and heteroaryl substituted phenylsulfonyl derivatives previously described, using 4-Bromo-N-[4-chloro-2-(pyridine-4-carbonyl)-phenyl]-benzenesulfonamide 0.3 g (0.66 mmol), potassium phosphate tribasic monohydrate 0.91 g (3.96 mmol), rac-2,2′-bis (diphenylphosphino)-1,1′-binaphthyl 0.12 g (0.198 mmol), azetidine 0.18 g (3.3 mmol) and Pd (dba)3 60 mg (0.066 mmol) in 3 ml DMF, followed by workup and HPLC purification.

reactant | 4-Bromo-N-[4-chloro-2-(pyridine-4-carbonyl)-phenyl]-benzenesulfonamide | 0.66 mmol, 0.3 g | BrC1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)C(=O)C1=CC=NC=C1 | C18H12BrClN2O3S
reactant | potassium phosphate tribasic monohydrate | 3.96 mmol, 0.91 g | O.[O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | rac-2,2′-bis (diphenylphosphino)-1,1′-binaphthyl | 0.198 mmol, 0.12 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | azetidine | 3.3 mmol, 0.18 g | N1CCC1 | C3H7N
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
catalyst | Pd | 0.066 mmol, 60 mg | [Pd] | Pd
product | 4-Azetidin-1-yl-N-[4-chloro-2-(pyridine-4-carbonyl)-phenyl]-benzenesulfonamide | N1(CCC1)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)C(=O)C1=CC=NC=C1 | C21H18ClN3O3S
